US09023883B2
To a solution of tert-butyl methyl(2-(methyl((3-(4-nitrophenyl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-4-yl)methyl)amino)ethyl)carbamate (0.700 g, 0.00140 mol) in MeOH (25 mL) was added PdC (0.07 g, 10% w/w) under a nitrogen atmosphere. Hydrogen gas was purged into the reaction mass for 2 h. The reaction mixture was filtered through a Celite bed and washed with MeOH. The filtrate was evaporated to give tert-butyl (2-(((3-(4-aminophenyl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-4-yl)methyl)(methyl)amino)ethyl)(methyl)carbamate (0.600 g, yield: 92%). LCMS (ESI): RT=1.79 min, m/z=444.5 [M+H]+.

reactant | tert-butyl methyl(2-(methyl((3-(4-nitrophenyl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-4-yl)methyl)amino)ethyl)carbamate | 0.00140 mol, 0.700 g | CN(C(OC(C)(C)C)=O)CCN(CC=1C(=NN(C1)C1OCCCC1)C1=CC=C(C=C1)[N+](=O)[O-])C | C24H35N5O5
solvent | MeOH | 25 mL | CO | CH4O
product | tert-butyl (2-(((3-(4-aminophenyl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-4-yl)methyl)(methyl)amino)ethyl)(methyl)carbamate | 0.600 g, yield: 92% | NC1=CC=C(C=C1)C1=NN(C=C1CN(CCN(C(OC(C)(C)C)=O)C)C)C1OCCCC1 | C24H37N5O3
